US07018997B2
Step 2: 2-Formyl-7-methylimidazo[2,1-b]-benzthiazole:
To a stirred solution of Ethyl 7-methylimidazo[2,1-b]-benzthiazole-2-carboxylate (4.0 g, 15.38 mmol) in dry THF at −78° C., DIBAL (1M. solution in toluene) (16.0 ml, 16 mmol) was added. The reaction mixture was stirred at −78° C. and slowly elevated to room temperature. The reaction mixture was stirred at room temperature for 30 minutes and quenched with saturated NH4Cl. The reaction mixture was extracted with chloroform and washed well with water. The organic layer was dried over anhydrous MgSO4; filtered and concentrated. The residue was purified bt SiO2 column chromatography by eluting it with chloroform: metrhanol (20:1). Brown solid; (M+H) 217; Yield: 800 mg (24%)

reactant | Ethyl 7-methylimidazo[2,1-b]-benzthiazole-2-carboxylate | 15.38 mmol, 4.0 g | CC1=CC2=C(N3C(S2)=NC(=C3)C(=O)OCC)C=C1 | C13H12N2O2S
reactant | DIBAL | 16 mmol, 1M, 16.0 ml | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 2-Formyl-7-methylimidazo[2,1-b]-benzthiazole | C(=O)C=1N=C2SC3=C(N2C1)C=CC(=C3)C | C11H8N2OS
